US08026257B2
3-Bromo-5-(trifluoromethyl)-2-((trimethylsilyl)ethynyl)aniline.
3-Bromo-2-iodo-5-(trifluoromethyl)aniline (18.7 g, 51.1 mmol) was dissolved in triethylamine (400 mL). To this was added dichlorobis(triphenylphosphine)palladium(II) (3.59 g, 5.11 mmol), copper(I) iodide (0.973 g, 5.11 mmol), and trimethylsilylacetylene (5.52 g, 56.2 mmol). The reaction was stirred for 2 h at ambient temperature, at 80° C. for 2 h, and then evaporated. The residue was purified by chromatography on silica gel with 5% ethyl acetate/hexanes to give 10.67 g (62.1%) as a brown liquid. 1H-NMR (CDCl3, 400 MHz) δ 7.13 (s, 1H), 6.82 (s, 1H), 4.52 (bs, 2H), 0.29 (s, 9H); LC/MS (HPLC method 4): tR=4.208 min, 336.05(MH)+.

reactant | 3-Bromo-2-iodo-5-(trifluoromethyl)aniline | 51.1 mmol, 18.7 g | BrC=1C(=C(N)C=C(C1)C(F)(F)F)I | C7H4BrF3IN
reactant | trimethylsilylacetylene | 56.2 mmol, 5.52 g | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 400 mL | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 5.11 mmol, 3.59 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 5.11 mmol, 0.973 g | [Cu]I
product | 3-Bromo-5-(trifluoromethyl)-2-((trimethylsilyl)ethynyl)aniline | BrC=1C(=C(N)C=C(C1)C(F)(F)F)C#C[Si](C)(C)C | C12H13BrF3NSi
